US07378418B2
16B. Preparation of 2-(7,8-Bis(4-chlorophenyl)-3-oxo-[1,2,4]triazolo[4,3-b]pyridazin-2(3H)-yl)-N,4-dimethylpentanamide
A solution of 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one, (40 mg, 0.11 mmol), prepared as described in Example 1,2-bromo-N,4-dimethylpentanamide (25 mg) and K2CO3 (31 mg, 0.22 mmol) in DMF (2 ml), was heated at 85° C. for 1.5 hours. After this time, the reaction mixture was cooled to RT and diluted with ethyl acetate. The resultant solution was washed with water. The organic layer was dried over Na2SO4, filtered and concentrated. The crude product was purified using reverse phase preparative HPLC to give the title compound, 2-(7,8-bis(4-chlorophenyl)-3-oxo-[1,2,4]triazolo[4,3-b]pyridazin-2(3H)-yl)-N,4-dimethylpentanamide (28 mg, 40%) as a yellow solid. MS M+H=484; 1H NMR (CDCl3) δ 8.23 (1H), 7.36-7.30 (6H), 7.12 (2H), 6.90 (1H), 5.13 (1H), 2.81 (3H), 2.22 (1H), 1.98 (1H), 1.42 (1H), 0.93 (6H).

reactant | 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.11 mmol, 40 mg | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(NN2)=O)C2=CC=C(C=C2)Cl | C17H10Cl2N4O
reactant | K2CO3 | 0.22 mmol, 31 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(7,8-bis(4-chlorophenyl)-3-oxo-[1,2,4]triazolo[4,3-b]pyridazin-2(3H)-yl)-N,4-dimethylpentanamide | 28 mg, 40% | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(N(N2)C(C(=O)NC)CC(C)C)=O)C2=CC=C(C=C2)Cl | C24H23Cl2N5O2
